US05843957
Preparation of N-[1-butyl-4-{3-(3-diethylamino-1-propynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
A mixture of N-[1-butyl-4-(3-bromophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (4.6 g, 8 mmol), 3-diethylamino-3-propyne (2.67 g, 24 mmol), copper (I) iodide (122 mg, 0.64 mmol), triphenylphosphine (335 mg, 1.28 mmol), 10% palladium-carbon (336 mg), triethylamine (30 ml), acetonitrile (30 ml), and DMF (30 ml) was heated under reflux for six hours. After allowed to stand for cooling, the mixture was filtered through a cerite pad. The filtrate was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate (500 ml). The mixture was washed with water, washed with a 0.5N aqueous hydrochloric acid solution, washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The resultant was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (0-4% methanol in chloroform) to give the title compound (3.05g, 5.0 mmol).

reactant | N-[1-butyl-4-(3-bromophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 8 mmol, 4.6 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)Br)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C31H35BrN4O2
reactant | triphenylphosphine | 1.28 mmol, 335 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
catalyst | copper (I) iodide | 0.64 mmol, 122 mg | [Cu]I
catalyst | palladium-carbon | 336 mg | [C].[Pd]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-[1-butyl-4-{3-(3-diethylamino-1-propynyl)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 5.0 mmol, 3.05g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)C#CCN(CC)CC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C38H47N5O2
